US06262095B1
To 5 g (17.8 mmol) of 4,9-dihydro-4,9-dioxo-2-(furan-2-yl)naphtho[2,3-d]thiazole, one adds 20 mL of fuming nitric acid and 20 mL of concentrated sulfuric acid at room temperature. The reaction mixture is heated to reflux for 72 h; the precipitate formed is filtered through fritted glass, washed with water, and rinsed with ether. The dark yellow powder obtained is recrystallized in DMF after color removal with animal black. In this manner, 2 g of 4,9-dihydro-4,9-dioxo-2-(5-nitro-furan-2-yl)naphtho-[2,3-d]thiazole are produced in the form of a dark yellow solid.

reactant | 4,9-dihydro-4,9-dioxo-2-(furan-2-yl)naphtho[2,3-d]thiazole | 17.8 mmol, 5 g | O=C1C=2C=CC=CC2C(C2=C1N=C(S2)C=2OC=CC2)=O | C15H7NO3S
reactant | nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 4,9-dihydro-4,9-dioxo-2-(5-nitro-furan-2-yl)naphtho-[2,3-d]thiazole | 2 g, Yield: 34% | O=C1C=2C=CC=CC2C(C2=C1N=C(S2)C=2OC(=CC2)[N+](=O)[O-])=O | C15H6N2O5S
